US08580762B2
N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropylamino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of 7((3aS,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (7.50 g, 16.5 mmol) in 1,2-Dichloroethane (140 mL, 1800 mmol) was treated with Acetone (1.34 mL, 18.2 mmol;) and Acetic acid (0.94 mL, 16 mmol) dropwise followed by Sodium triacetoxyborohydride (4.20 g, 19.8 mmol) and the mixture was stirred at RT for 4 h. HPLC analysis indicated the reaction was complete. The reaction mixture was diluted with 200 mL CH2Cl2 and washed with 150 mL sat NaHCO3. The aqueous phase was washed with 100 mL CH2Cl2 and the combined organic phase was dried over Na2SO4, filtered and concentrated to yield a an oil that produced a stiff foam when placed under high vac. The crude material (9.3 g) was carried on directly to the next step.

reactant | 7((3aS,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 16.5 mmol, 7.50 g | NC[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C24H31N5O4
reactant | 1,2-Dichloroethane | 1800 mmol, 140 mL | ClCCCl | C2H4Cl2
reactant | Acetone | 18.2 mmol, 1.34 mL | CC(=O)C | C3H6O
reactant | Acetic acid | 16 mmol, 0.94 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 19.8 mmol, 4.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropylamino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CNC(C)C)C=CC(=C1)OC | C27H37N5O4
